US06410550B1
C) 1-(10-Azatricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-4-yl)-1-ethanone hydrochloride
4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester (190 mg, 0.63 mmol) was treated with excess 3N HCl EtOAc and warmed to 70° C. for 1 hour then concentrated and dissolved in a minimum of MeOH. The resulting solution was saturated with Et2O and stirred. After 18 hours the white crystalline product was collected by filtration (81 mg, 54%). 1H NMR (400 MHz, DMSO-d6) δ9.75 (br s, NH), 7.89 (s, 1H), 7.88 (d, J=8.0 Hz, 1H), 7.74 (br s, NH), 7.44 (d, J=8.0 Hz, 1H), 3.33 (br s, 2H), 3.22 (br s, 2H), 3.00 (br m, 2H), 2.5 (s, 3H), 2.17 (m, 1H), 2.02 (d, J=11.0 Hz, 1H). GCMS m/e 201 (M+). mp 198-202

reactant | 4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 0.63 mmol, 190 mg | C(C)(C)(C)OC(=O)N1CC2C=3C=CC(=CC3C(C1)C2)C(C)=O | C18H23NO3
reactant | HCl EtOAc | 3N | Cl.CCOC(=O)C
product | 1-(10-Azatricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-4-yl)-1-ethanone hydrochloride | Cl.C12C=3C=C(C=CC3C(CNC1)C2)C(C)=O | InChI=1S/C13H15NO.ClH/c1-8(15)9-2-3-12-10-4-11(7-14-6-10)13(12)5-9;/h2-3,5,10-11,14H,4,6-7H2,1H3;1H
